US04024142
When 0.05 mole each of 3-nitro-4-biphenylamine and acenaphthenequinone were reacted by the method of Example 1, 13.2 g. (80 percent yield) of 9-phenylacenaphtho[1,2-b]quinoxaline, mp = 208°-210° C. were obtained.

reactant | 3-nitro-4-biphenylamine | 0.05 mole | [N+](=O)([O-])C=1C=C(C=CC1N)C1=CC=CC=C1 | C12H10N2O2
reactant | acenaphthenequinone | C1(C(C2=CC=CC3=CC=CC1=C23)=O)=O | C12H6O2
product | 9-phenylacenaphtho[1,2-b]quinoxaline | 80 percent yield | C1(=CC=CC=C1)C=1C=C2N=C3C(=NC2=CC1)C=1C=CC=C2C=CC=C3C12 | C24H14N2
